US06878722B2
Step 78d: Preparation of 4-(7-Methoxy-2-pyridin-2-yl-quinolin-4-yloxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester
To a solution of N—Boc-4-hydroxyproline (1.6 g, 6.7 mmol) in DMSO (20 mL) was added t-BuOK (1.9 g, 16.8 mmol). The generated mixture was stirred for 1.5 h and 4-Chloro-7-methoxy-2-pyridin-2-yl-quinoline (2.0 g, 7.4 mmol) and DMSO (10 mL) were added. The reaction mixture was stirred for 38 h, diluted with cold water and extracted with EtOAc/ether (1/4, 2×). the aqueous layer was acidified to pH 4 and extracted with EtOAc/THF (5×). the combined extract was dried (Na2SO4/MgSO4), removed the solvent in vacuo and the residue was purified by preparative HPLC (0-80% solvent B) to provide the product (1.6 g, 50%): LC-MS (retention time: 1.23, Method I), MS m/z 466 (M++1).

reactant | N—Boc-4-hydroxyproline | 6.7 mmol, 1.6 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CC(C1)O | C10H17NO5
reactant | t-BuOK | 16.8 mmol, 1.9 g | CC(C)(C)[O-].[K+]
reactant | 4-Chloro-7-methoxy-2-pyridin-2-yl-quinoline | 7.4 mmol, 2.0 g | ClC1=CC(=NC2=CC(=CC=C12)OC)C1=NC=CC=C1 | C15H11ClN2O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 4-(7-Methoxy-2-pyridin-2-yl-quinolin-4-yloxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 1.6 g, 50% | C(C)(C)(C)OC(=O)N1C(CC(C1)OC1=CC(=NC2=CC(=CC=C12)OC)C1=NC=CC=C1)C(=O)O | C25H27N3O6
